reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:3]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:11])([H:15])[H:16],92.9897405215383
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[O:7][C:6]([H:12])=[N:5]1)[H:8],49.0954721416905
[H:7][H:11].[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],67.77758640721979
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([N+:6]#[C-:5])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],26.6568366407955
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],69.2084047882409
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](/[C:3](=[C:4])[H:8])[O:6][C:5]([H:9])([H:10])[H:11])\[H:7],89.5501545791962
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1]([C@@:2]1([H:9])[C@@:3]2([H:10])[C:4]([H:11])([H:12])[C:5]([H:8])([H:13])[N:6]12)[H:7],90.1313570905585
[C:1]([H:5])([H:6])([H:7])[H:14].[C:2]([C:3]([H:9])([H:10])[H:11])(=[C:4]([H:12])[H:13])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7],93.55813508352131
[O:1]([C+:2]([C@@:3]1([H:7])[C-:4]([H:9])[N:5]1[H:10])[H:6])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],33.760619418597884
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1]#[C:2][C@:6]([O:5][C:4](=[O:3])[H:9])([O:7][H:8])[H:10],52.749390377655104
[C:1]([C:2]([C:3](=[C:5]([H:15])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:16]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],89.3794231054426
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:5]1=[N:6][C:4]1([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],107.64607703958
[N:1]([C+:2]([C:4](=[O:3])[H:9])[C:6](=[O:7])[H:10])([O-:5])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],41.4836307423408
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[C:5](/[O:6][H:14])[N:7]([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10],60.84821209242471
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.86628969880981
[N:1](=[C:2]=[C:7]([N:3]([N:4])[H:9])[H:10])[H:8].[O+:5]#[C-:6]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],22.719830218529097
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:6](=[C:5]=[C:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9],61.429722403554706
[C:1]([C:2]([O:5]/[C:4](=[N:3]/[H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],55.7651303457918
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15],53.21164798521811
[C:1](/[N:2]=[C:3](/[O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],27.4761969874817
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][H:12])([H:9])[H:10])([H:8])[H:11])[H:7],77.3738934892895
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]1([H:11])[C:5]([N:4]([H:12])[H:13])=[N:6]1)([H:9])[H:10])([H:7])[H:8],94.1995839359051
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:12])[C@:7]2([H:15])[C:3]([H:11])=[O+:4][C-:5]([H:13])[C@:6]12[H:14]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15],33.192972670668304
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3][C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],4.115258348394391
